US08039493B2
In analogy to example 13, step 2, (4-bromo-thiophen-2-ylmethyl)-isobutyl-amine was reacted with 2-chlorobenzenesulfonylchloride in presence of N,N-diisopropyl ethyl amine in dichloromethane to give N-(4-bromo-thiophen-2-ylmethyl)-2-chloro-N-isobutyl-benzenesulfonamide as a colorless oil.

reactant | (4-bromo-thiophen-2-ylmethyl)-isobutyl-amine | BrC=1C=C(SC1)CNCC(C)C | C9H14BrNS
reactant | 2-chlorobenzenesulfonylchloride | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | N,N-diisopropyl ethyl amine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-bromo-thiophen-2-ylmethyl)-2-chloro-N-isobutyl-benzenesulfonamide | BrC=1C=C(SC1)CN(S(=O)(=O)C1=C(C=CC=C1)Cl)CC(C)C | C15H17BrClNO2S2
